US06235750B1
C. 6-[4-(1-Benzyl-piperidin-2-ylmethyl)-phenyl]-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 36 mg (0.0827 mmol) 2-(2,5-dimethylpyrrolyl)-6-[4-(1-benzyl-piperidin-2-ylmethyl)-phenyl]-pyridine, 29 mg (0.414 mmol) hydroxylamine hydrochloride, 4 mL ethanol and 1 mL water. The reaction was refluxed 84 h (additional hydroxylamine hydrochloride was used to complete the reaction), cooled, poured into dilute hydrochloric acid, and washed with ethyl acetate. The aqueous layer was adjusted to pH 10 with 6 N sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The resulting oil was converted to the hydrochloride salt using 1 N HCl in ether to afford a solid, 17 mg (48%), mp 70-85° C.

reactant | 2-(2,5-dimethylpyrrolyl)-6-[4-(1-benzyl-piperidin-2-ylmethyl)-phenyl]-pyridine | 0.0827 mmol, 36 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)CC1N(CCCC1)CC1=CC=CC=C1)C | C30H33N3
reactant | hydroxylamine hydrochloride | 0.414 mmol, 29 mg | Cl.NO
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 6-[4-(1-Benzyl-piperidin-2-ylmethyl)-phenyl]-pyridin-2-ylamine | C(C1=CC=CC=C1)N1C(CCCC1)CC1=CC=C(C=C1)C1=CC=CC(=N1)N | C24H27N3
